US05736548
To a stirred solution of 3-hydroxybenzaldehyde (8 g, 65 mmol), 1-methyl-4-piperidinol (7.5 g, 65 mmol), triphenylphosphine (13.1 g, 65 mmol) and THF (100 ml) was added diethylazodicarboxylate (11.4 g, 65 mmol) in THF (20 ml) over a 35 minute period. The reaction mixture was stirred in an ice bath for 3 hours, then at room temperature for 5 days. The reaction mixture was concentrated in vacuo, and partitioned between CHCl3 (300 ml) and 3N HCl (300 ml). The aqueous layer was concentrated in vacuo, the residue was treated with 10% K2CO3 and extracted with CHCl3 (2×100 ml). The solvent was removed in vacuo to afford 7.4 g of crude 3-(1-methyl-4-piperidinyloxy)benzaldehyde.

reactant | 3-hydroxybenzaldehyde | 65 mmol, 8 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | 1-methyl-4-piperidinol | 65 mmol, 7.5 g | CN1CCC(CC1)O | C6H13NO
reactant | triphenylphosphine | 65 mmol, 13.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 65 mmol, 11.4 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 3-(1-methyl-4-piperidinyloxy)benzaldehyde | 7.4 g | CN1CCC(CC1)OC=1C=C(C=O)C=CC1 | C13H17NO2
